US07649002B2
tert-Butyl (3R,5S)-3,5-dimethyl-4-oxopiperidine-1-carboxylate
(3R,5S)-1-Benzyl-3,5-dimethyl-piperidin-4-one (from preparation 14) was dissolved in ethanol (200 mL) and di-tert-butyl dicarbonate (5.08 g, 23 mmol) was added, followed by palladium hydroxide on carbon (20% on carbon, 200 mg) and the reaction mixture placed under 40 atmosphere pressure of hydrogen and stirred overnight at room temperature. The reaction mixture was then filtered through a pad of Celite® and Arbocel® and concentrated in vacuo to afford a yellow oil which crystallised on standing to afford the title compound (5.2 g, 90%) of sufficient purity to use directly in the next stage (preparation 10). 1H NMR (400 MHz, CDCl3) δ 1.03 (6H, d), 1.49 and 1.52 [9H, 2×s (Rotamers)], 2.48-2.76 (4H, m), 4.24-4.53 (2H, m).

reactant | (3R,5S)-1-Benzyl-3,5-dimethyl-piperidin-4-one | C(C1=CC=CC=C1)N1C[C@H](C([C@H](C1)C)=O)C | C14H19NO
reactant | di-tert-butyl dicarbonate | 23 mmol, 5.08 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 200 mL | C(C)O | C2H6O
catalyst | palladium hydroxide on carbon | 200 mg | [OH-].[OH-].[Pd+2]
product | tert-Butyl (3R,5S)-3,5-dimethyl-4-oxopiperidine-1-carboxylate | 5.2 g, 90% | C[C@@H]1CN(C[C@@H](C1=O)C)C(=O)OC(C)(C)C | C12H21NO3
